US05047518
A solution of 1,6-anhydro-4-O-benzyl-3-deoxy-β-D-erythro-hexopyranos-2-ulose in benzyl alcohol was prepared as described in Example 6, except that 0.088 g of levoglucosenone were used as starting material and, 5 min after the addition of potassium benzoxide, a suspension of sodium borohydride (0.073 g) in ethanol (4 ml) was added to the mixture, which was then stirred for 0.5 h at room temperature, made neutral with acetic acid, evaporated under vacuum, and the resulting white residue transferred to a short column of silica, which was eluted with a gradient of ethyl acetate/hexane (from 1:2 to 2:1). The fractions found by t.l.c. to contain the title compound A were combined and evaporated, to give material that spontaneously crystallized (0.106 g, 64% from levoglucosenone). 1H-Nmr spectroscopy of this material showed it to be an 9:11 mixture of the title compound A and the D-arabino isomer determined from the relative intensities of their H-3 resonances.

reactant | levoglucosenone | 0.088 g | C1[C@@H]2C=CC(=O)[C@H](O1)O2 | C6H6O3
reactant | potassium | [K] | K
reactant | sodium borohydride | 0.073 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1,6-anhydro-4-O-benzyl-3-deoxy-β-D-erythro-hexopyranos-2-ulose | C(C1=CC=CC=C1)O[C@H]1CC([C@H]2O[C@@H]1CO2)=O | C13H14O4
